US08304419B2
A solution of NaClO2 (0.21 g, 2.34 mmol) and NaH2PO4.H2O (0.19 g, 1.41 mmol) in H2O (0.5 mL) was added to a solution of 4-chloro-5-formyl-N-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonamide (0.083 g, 0.23 mmol) and 2-methyl-2-butene (1.41 mL of a 2M solution in THF, 2.81 mmol) in THF (0.70 mL) and t-BuOH (0.16 mL). The reaction mixture was stirred at RT for 1 h and extracted with EtOAc. The organic layer was dried (Na2SO4), filtered and dried to provide 4-chloro-2-[(methylamino)sulfonyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid as a clear oil that was assumed to be quantitative and used without further purification.

reactant | NaClO2 | 2.34 mmol, 0.21 g | [O-]Cl=O.[Na+]
reactant | 4-chloro-5-formyl-N-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonamide | 0.23 mmol, 0.083 g | ClC=1N=C(N(C1C=O)COCC[Si](C)(C)C)S(=O)(=O)NC | C11H20ClN3O4SSi
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
solvent | H2O | 0.5 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 0.70 mL | C1CCOC1 | C4H8O
solvent | t-BuOH | 0.16 mL | CC(C)(C)O | C4H10O
product | 4-chloro-2-[(methylamino)sulfonyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | ClC=1N=C(N(C1C(=O)O)COCC[Si](C)(C)C)S(=O)(=O)NC | C11H20ClN3O5SSi
